US09278910B2
Prepared using General Procedure 2: To a stirring solution of tert-butyl 2-(N-(4-hydroxybenzyl)-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzamido)acetate INT-9 (500 mg, 0.87 mmol) in DCM (10 mL) was added TEA (304 μL, 2.18 mmol) followed by 4-bromobenzoyl chloride (201 mg, 0.92 mmol). After 1 h, the reaction mixture was diluted with DCM (50 mL) and washed with NaHCO3 (50 mL). The organics were pre-absorbed onto silica gel and purified by chromatography (EA/isohexanes) to afford 440 mg (63%) of 4-((N-(2-(tert-butoxy)-2-oxoethyl)-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzamido)methyl)phenyl 4-bromobenzoate INT-10 as a white powder. LCMS-ESI (m/z) calculated for C37H34BrF3N2O7: 755; found 754 [M−H]−, tR=2.99 min (Method 10).

reactant | tert-butyl 2-(N-(4-hydroxybenzyl)-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzamido)acetate | OC1=CC=C(CN(C(C2=CC=C(C=C2)NC(CC2=C(C=C(C=C2)OC)C(F)(F)F)=O)=O)CC(=O)OC(C)(C)C)C=C1 | C30H31F3N2O6
reactant | 4-bromobenzoyl chloride | 0.92 mmol, 201 mg | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-((N-(2-(tert-butoxy)-2-oxoethyl)-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzamido)methyl)phenyl 4-bromobenzoate | 440 mg, 63% | BrC1=CC=C(C(=O)OC2=CC=C(C=C2)CN(C(C2=CC=C(C=C2)NC(CC2=C(C=C(C=C2)OC)C(F)(F)F)=O)=O)CC(=O)OC(C)(C)C)C=C1 | C37H34BrF3N2O7
